US04003921
1000 g n-butyraldehyde are reacted in the presence of 80 g of a commercially available nickel containing carrier catalyst (containing about 52 to 53% by weight nickel, and employing chromium (3)-oxide as activator) at 115° C with ammonia and hydrogen (volume ratio 1 : 1) in a flask equipped as described in Example 1. Altogether 260 l ammonia and 260 l hydrogen are introduced into the aldehyde-catalyst-suspension over a period of 4 hours. After termination of the reaction, the catalyst is separated from the reaction mixture. 840 g butylidene-butylamine are obtained.

reactant | n-butyraldehyde | 1000 g | C(CCC)=O | C4H8O
reactant | ammonia | N | H3N
reactant | ammonia | 260 l | N | H3N
catalyst | nickel | [Ni] | Ni
solvent | hydrogen | 260 l | [H][H] | H2
product | butylidene-butylamine | 840 g | C(CCC)=NCCCC | C8H17N
